US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.0 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl) amine (1.40 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.53 g) was obtained.

reactant | 7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.0 g | CC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O2
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl) amine | 1.40 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.53 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)C)C1=CC=C(C=C1)C(C)C)C | C30H36N2O
